US08541430B2
Preparation of 2-Hydroxy-4-oxo-6,7,8,9-tetrahydro-4H,5H-10-thia-1,4a-diaza-benzo[a]azulene-3-carboxylic acid cyclohexylcarbamoylmethyl-amide (Compound No. 98)
To the stirred suspension of [(2-hydroxy-4-oxo-6,7,8,9-tetrahydro-4H,5H-10-thia-1,4a-diaza-benzo[a]azulene-3-carbonyl)-amino]-acetic acid (0.70 gm, 0.0020 mole) in dichloromethane (20 ml), triethylamine (0.85 ml, 0.0062 mole) and cyclohexylamine (0.29 ml, 0.0025 mole) were added. To the reaction mixture, hydroxybenzotriazole (0.28 gm, 0.0020 mole) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.60 gm, 0.0031 mole) were added and stirred at room temperature for 12 hrs. Dichloromethane was distilled off and 1N hydrochloric acid (50 ml) was added to the residue, the separated solid was collected by filtration. The solid thus obtained was stirred in methanol (20 ml) at 60° C. for 0.5 hr, filtered and suck dried to give 0.60 gm title compound.

reactant | [(2-hydroxy-4-oxo-6,7,8,9-tetrahydro-4H,5H-10-thia-1,4a-diaza-benzo[a]azulene-3-carbonyl)-amino]-acetic acid | 0.0020 mole, 0.70 gm | OC=1N=C2N(C=3CCCCCC3S2)C(C1C(=O)NCC(=O)O)=O | C14H15N3O5S
reactant | triethylamine | 0.0062 mole, 0.85 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexylamine | 0.0025 mole, 0.29 ml | C1(CCCCC1)N | C6H13N
reactant | hydroxybenzotriazole | 0.0020 mole, 0.28 gm | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.0031 mole, 0.60 gm | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | 2-Hydroxy-4-oxo-6,7,8,9-tetrahydro-4H,5H-10-thia-1,4a-diaza-benzo[a]azulene-3-carboxylic acid cyclohexylcarbamoylmethyl-amide | 0.60 gm | C1(CCCCC1)NC(=O)CNC(=O)C1=C(N=C2N(C=3CCCCCC3S2)C1=O)O | C20H26N4O4S
